US07060827B2
In a manner analogous to the preparation of N4-[2,4-dihydro-1-oxo-4H-imidazo[2,1-c][1,4]benzoxazin-8-yl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, N4-[2H-1,4-benzoxazin-3(4H)-thione-6-yl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine (400 mg, 1.04 mmol) and β-alanine (500 mg) gave 5-fluoro-N2-(3-hydroxyphenyl)-N4-[1-oxo-1,2,3,6-tetrahydropyrimido[2,1-c][1,4]benzoxazin-9-yl]-2,4-pyrimidinediamine as a white solid. 1H NMR (acetone-d6): δ 2.68 (t, J=7.2 Hz, 2H), 3.71 (t, J=7.2 Hz, 2H), 4.62 (t, J=1.2 Hz, 2H), 6.42 (ddd, J=1.2 and 2.4 and 7.5 Hz, 1H), 6.98–7.08 (m, 3H), 7.38 (t, J=2.4 Hz, 1H), 7.62 (dd, J=2.4 and 8.7 Hz, 1H), 7.96 (d, J=3.3 Hz, 1H), 8.12 (s, 1H), 8.16 (s, 1H), 8.52 (d, J=2.7 Hz, 1H), 8.65 (s, 1H); 19F NMR (282 MHz, acetone-d6): δ −168.04.

reactant | N4-[2H-1,4-benzoxazin-3(4H)-thione-6-yl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | 1.04 mmol, 400 mg | O1CC(NC2=C1C=CC(=C2)NC2=NC(=NC=C2F)NC2=CC(=CC=C2)O)=S | C18H14FN5O2S
reactant | β-alanine | 500 mg | NCCC(=O)O | C3H7NO2
product | 5-fluoro-N2-(3-hydroxyphenyl)-N4-[1-oxo-1,2,3,6-tetrahydropyrimido[2,1-c][1,4]benzoxazin-9-yl]-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)O)NC=1C=CC2=C(N3C(=CO2)NCCC3=O)C1 | C21H17FN6O3
